US06958350B2
Step 3: 3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}-N-piperidin-4-ylpropanamide
N-(1-Benzylpiperidin-4-yl)-3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}propanamide (8.14 g, 18.4 mmol) was dissolved in ethanol and hydrogenated over a Pd/C catalyst at 3 bar until the reaction had gone to completion. The reaction mixture was filtered and the filtrate was evaporated to dryness, leaving an off-white solid which was triturated in ether, filtered and then dried in air to leave the subtitle compound (2.68 g, 41%).

reactant | N-(1-Benzylpiperidin-4-yl)-3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}propanamide | 18.4 mmol, 8.14 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CCC=1OC(=NN1)NC1=C(C=C(C=C1)F)F)=O | C23H25F2N5O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}-N-piperidin-4-ylpropanamide | 2.68 g, 41% | FC1=C(C=CC(=C1)F)NC1=NN=C(O1)CCC(=O)NC1CCNCC1 | C16H19F2N5O2
